US05506256
A) (2S)-3-Phenyl-2-(1-piperidinyl)propionic acid tert-butyl ester
To a solution of L-phenylalanine tert-butyl ester hydrochloride (3.05 g) in DMF (50 ml) were added potassium carbonate (5.38 g) and 1,5-dibromopentane (2.98 g), and the mixture was stirred at 80° C. for 2 hours, and then at room temperature for 22 hours. The reaction mixture was diluted with diethyl ether, washed with water and saturated brine successively, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (eluate: methylene chloride-methanol) to give 1.24 g of the title compound.

reactant | L-phenylalanine tert-butyl ester hydrochloride | 3.05 g | Cl.C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | potassium carbonate | 5.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-dibromopentane | 2.98 g | BrCCCCCBr | C5H10Br2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2S)-3-Phenyl-2-(1-piperidinyl)propionic acid tert-butyl ester | 1.24 g | C(C)(C)(C)OC([C@H](CC1=CC=CC=C1)N1CCCCC1)=O | C18H27NO2
